### PR TITLE
Add Erdős Problem 565 (induced Ramsey numbers), link the formal proof

### LINKED ISSUE #6417: Erdős Problem 565
### What is the Erdős problem?

https://www.erdosproblems.com/565

Let $R^*(G)$ be the induced Ramsey number: the minimal $m$ such that there is a graph $H$ on $m$ vertices such that any $2$-colouring of the edges of $H$ contains an induced monochromatic copy of $G$. Is it true that $R^*(G) \leq 2^{O(n)}$ for any graph $G$ on $n$ vertices?

Status: proved (Aragão–Campos–Dahia–Filipe–Marciano [ACDFM25]). A formal proof exists in plby/lean-proofs (`Erdos565.erdos_565`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6417.

### What changed
Adds `FormalConjectures/ErdosProblems/565.lean` with `IsInducedRamseyHost G H` (every 2-colouring of the edges of `H` has a monochromatic `G ↪g H`) and `inducedRamseyNumber G` (`sInf` over host orders):
- `erdos_565` (`research solved`, `answer(True)`): `∃ C, ∀ n G, R*(G) ≤ 2^(C n)`.
- `variants.exists`: existence of an induced Ramsey host (Deuber; Erdős–Hajnal–Pósa; Rödl).
- `variants.conlon_fox_sudakov` (sorry'd): `R*(G) ≤ 2^{O(n log n)}`.

The first two are linked to plby/lean-proofs `Erdos565.erdos_565_inducedRamseyNumber_le` / `erdos_565` (Codex and GPT-5.6 Sol; 52 Mathlib-only files, explicit bound `2^(3000 n)`).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos565.erdos_565` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (`IsInducedRamseyHost` is definitionally plby's `IsInducedRamseyWitness`):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge565

lemma isInducedRamseyHost_iff {n m : ℕ} (G : SimpleGraph (Fin n)) (H : SimpleGraph (Fin m)) :
    Erdos565.IsInducedRamseyHost G H ↔ Erdos565Plby.IsInducedRamseyWitness G H :=
  Iff.rfl

theorem erdos_565 : True ↔
    ∃ C : ℕ, ∀ (n : ℕ) (G : SimpleGraph (Fin n)), Erdos565.inducedRamseyNumber G ≤ 2 ^ (C * n) := by
  refine ⟨fun _ => ⟨3000, fun n G => ?_⟩, fun _ => trivial⟩
  obtain ⟨m, hm, H, hH⟩ := Erdos565Plby.erdos_565 n G
  have hmem : m ∈ {m | ∃ H : SimpleGraph (Fin m), Erdos565.IsInducedRamseyHost G H} :=
    ⟨H, (isInducedRamseyHost_iff G H).2 hH⟩
  exact (Nat.sInf_le hmem).trans hm

theorem exists_host (n : ℕ) (G : SimpleGraph (Fin n)) :
    ∃ (m : ℕ) (H : SimpleGraph (Fin m)), Erdos565.IsInducedRamseyHost G H := by
  obtain ⟨m, -, H, hH⟩ := Erdos565Plby.erdos_565 n G
  exact ⟨m, H, (isInducedRamseyHost_iff G H).2 hH⟩

end Bridge565
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«565»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/565.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+induced monochromatic copy of `G`, i.e. a graph embedding `G ↪g H` (which preserves and reflects
+adjacency) all of whose edges receive the same colour. -/
+def IsInducedRamseyHost {V W : Type*} (G : SimpleGraph V) (H : SimpleGraph W) : Prop :=
+  ∀ c : H.EdgeLabeling (Fin 2), ∃ (i : Fin 2) (f : G ↪g H), ∀ e : G.edgeSet, c (f.mapEdgeSet e) = i
+
+/-- The induced Ramsey number `R*(G)`: the minimal `m` such that there is a graph `H` on `m`
+vertices such that any $2$-colouring of the edges of `H` contains an induced monochromatic copy
+of `G`. -/
+noncomputable def inducedRamseyNumber {V : Type*} (G : SimpleGraph V) : ℕ :=
+  sInf {m | ∃ H : SimpleGraph (Fin m), IsInducedRamseyHost G H}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/565.lean:59]: inducedRamseyNumber belongs next to graphRamsey/sizeRamsey in Combinatorics/SimpleGraph/Ramsey.lean
